US07034034B2
The solution of trans-4-[4-(3-bromo-phenyl)-1H-imidazol-2-yl]-cyclohexyl-carboxylic acid (1.22 mmol), 2-hydroxy-propylamine(3.65 mmol) and BOP (1.22 mmol) in DMF (6 mL) was stirred overnight at room temperature. The mixture was diluted with water, extracted with EtOAc, washed with saturated NaHCO3, dried over Na2SO4, and concentrated under vacuum. The residue was purified with flash chromatography (90:10:1 CH2Cl2/MeOH/NH4OH) to give trans-4-[4-(3-bromo-phenyl)-1H-imidazol-2-yl]-cyclohexane-carboxylic acid (2-hydroxy-propyl) amide.

reactant | trans-4-[4-(3-bromo-phenyl)-1H-imidazol-2-yl]-cyclohexyl-carboxylic acid | 1.22 mmol | BrC=1C=C(C=CC1)C=1N=C(NC1)[C@@H]1CC[C@H](CC1)C(=O)O | C16H17BrN2O2
reactant | 2-hydroxy-propylamine | 3.65 mmol | OC(CN)C | C3H9NO
reactant | BOP | 1.22 mmol | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | trans-4-[4-(3-bromo-phenyl)-1H-imidazol-2-yl]-cyclohexane-carboxylic acid (2-hydroxy-propyl) amide | OC(CNC(=O)[C@@H]1CC[C@H](CC1)C=1NC=C(N1)C1=CC(=CC=C1)Br)C | C19H24BrN3O2
